US08703953B2
To a stirred solution of 5-bromo-4-chloropyridin-2-amine (11.6 g, 55.9 mmol) in pyridine (100 mL) at 0° C. was added acetyl chloride (3.98 mL, 55.9 mmol) and the reaction was stirred at rt for 3 hours. The reaction was quenched with cold water. The reaction mixture was concentrated under reduced pressure. The residue was reconstituted in ethyl acetate and water. The organics were extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water (100 mL), brine (100 mL) and dried over sodium sulfate. The organics were concentrated under reduced pressure to afford N-(5-bromo-4-chloropyridin-2-yl)acetamide as a white solid (14.6 g, 55.9 mmol, quantitative yield) that was used without further purification in the next step. LCMS (ESI) m/e 249 [(M+H)+, calcd for C7H7BrClN2O 248.9 LC/MS retention time (method B): tR=1.64 min; 1H NMR (400 MHz, DMSO-d6) δ 10.87 (s, 1H), 8.58 (s, 1H), 8.33 (s, 1H), 2.11 (s, 3H).

reactant | 5-bromo-4-chloropyridin-2-amine | 55.9 mmol, 11.6 g | BrC=1C(=CC(=NC1)N)Cl | C5H4BrClN2
reactant | acetyl chloride | 55.9 mmol, 3.98 mL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-4-chloropyridin-2-yl)acetamide | 55.9 mmol, 14.6 g, quantitative yield | BrC=1C(=CC(=NC1)NC(C)=O)Cl | C7H6BrClN2O
